US05747499
(2) Methyl 5-[N-((6RS)-2-methyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]pyridine-2-carboxylate
A mixture of methyl 5-[N-(tert-butoxycarbonyl)-N-((6RS)-2-methyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]pyridine-2-carboxylate (0.3 g) and trifluoroacetic acid (10 ml) was stirred at ambient temperature for 1 hour. The mixture was evaporated and the residue was partitioned between ethyl acetate and a saturated aqueous sodium bicarbonate solution. The organic phase was dried (MgSO4) and evaporated. The residue was purified by column chromatography using increasingly polar mixtures of hexane and ethyl acetate as eluant. There was thus obtained methyl 5-[N-((6RS)-2-methyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]pyridine-2-carboxylate (0.24 g);

reactant | methyl 5-[N-(tert-butoxycarbonyl)-N-((6RS)-2-methyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]pyridine-2-carboxylate | 0.3 g | C(C)(C)(C)OC(=O)N(C1CCC2=C1C=C1C(N(C(=NC1=C2)C)COC(C(C)(C)C)=O)=O)C=2C=CC(=NC2)C(=O)OC | C30H36N4O7
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | Methyl 5-[N-((6RS)-2-methyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]pyridine-2-carboxylate | CC1=NC2=CC3=C(C=C2C(N1COC(C(C)(C)C)=O)=O)C(CC3)NC=3C=CC(=NC3)C(=O)OC | C25H28N4O5
